*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/B(-25to85[deg])/4.70e+00[uF]/4[V]
* Murata P/N :GRM155B30G475ME87
* Property : C = 4.70e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155B30G475ME87 Port1 Port2
C01 Port1 N01 3.92e-06
R01 Port1 N01 1.06e+07
L02 N01 N02 6.38e-11
R03 N02 N03 4.96e-03
C04 N03 N04 2.06e-04
R04 N03 N04 7.09e+00
C05 N04 N05 3.21e-04
R05 N04 N05 7.00e-01
C06 N05 N06 4.00e-04
R06 N05 N06 8.60e-02
C07 N06 N07 4.29e-04
R07 N06 N07 1.15e-02
C08 N07 N08 3.34e-04
R08 N07 N08 2.48e-03
L09 N08 N09 1.13e-10
R09 N08 N09 3.15e+01
L10 N09 N10 1.44e-11
R10 N09 N10 2.24e-01
L11 N10 N11 5.28e-11
R11 N10 N11 8.19e-02
L12 N11 N12 1.76e-10
R12 N11 N12 2.42e-02
C13 N12 Port2 3.12e-06
L13 N12 Port2 1.07e-10
R13 N12 Port2 5.25e-03
.ENDS GRM155B30G475ME87
